US07834063B2
A. 1,1-Dimethylethyl (4-hydroxyphenyl)carbamate
To a solution of 4-aminophenol (1.00 g, 9.17 mmol) and Et3N (1.27 mL, 9.17 mmol) in DMF (7.5 mL) at 0° C. was added a solution of di-tert-butyl dicarbonate (2.00 g, 9.17 mmol) in DMF (2.5 mL). The resulting mixture was stirred overnight, and allowed to gradually warm to rt. The mixture was poured into water and precipitated solids were collected by filtration. The collected solids were dissolved in EtOAc, washed (water, brine), dried over Na2SO4, filtered and concentrated to dryness. The title compound was obtained as a colorless solid (1.33 g) and used (see below) without further purification: 1H NMR (300 MHz, CD3OD) δ 7.15 (app. d, J=8.6 Hz, 2H), 6.69 (app. d, J=8.7 Hz, 2H), 1.49 (s, 9H).

reactant | 4-aminophenol | 9.17 mmol, 1.00 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | Et3N | 9.17 mmol, 1.27 mL | CCN(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 9.17 mmol, 2.00 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | DMF | 7.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 1,1-Dimethylethyl (4-hydroxyphenyl)carbamate | OC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C11H15NO3
